US06562978B1
3-Chloro-N-formylaniline
Acetic anhydride (189 ml, 2.0 mol) was mixed with formic acid (91 ml, 2.4 mol) at 0° C. and the mixture was stirred at 60° C. for 1 h and then cooled to 0° C. To the solution was added dropwise 3-chloroaniline (105.7 ml, 1.0 mol) and the mixture was stirred at room temperature for 18 h. After removal of solvent in vacuo, the residue was extracted with EtOAc-H2O. The organic layer was washed with 5% aqueous citric acid, saturated aqueous NaHCO3 and brine, dried over Na2SO4 and then concentrated. The residue was crystallized from iPr2O to give the title compound (115 g, 0.739 mol, 74%) as a colorless solid.

reactant | Acetic anhydride | 2.0 mol, 189 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 2.4 mol, 91 ml | C(=O)O | CH2O2
reactant | 3-chloroaniline | 1.0 mol, 105.7 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 3-Chloro-N-formylaniline | 0.739 mol, 115 g, 74% | ClC=1C=C(NC=O)C=CC1 | C7H6ClNO
